US08865682B2
A mixture of 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzaldehyde (60 mg, 0.16 mmol), methyl isonipecotate (50 mg, 0.35 mmol), and 100 mg of 4 Å molecular sieves in 5 mL of anhydrous DMF was stirred under nitrogen for 16 hours. Acetic acid (20 mg) and 1M sodium cyanoborohydride/THF solution (0.35 mL, 0.35 mmol) were then added. The mixture was diluted with 5 mL of anhydrous methanol, stirred at room temperature for 1 hour, and poured into 100 mL of water with stirring. The resulting precipitates were filtered, washed with water, and dried in vacuo to give the crude product, which was purified through silica gel column with 1-5% MeOH/CHCl3 to give methyl 1-{4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzyl}piperidine-4-carboxylate as yellow solid. Yield: 50 mg, 62%.

reactant | 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzaldehyde | 0.16 mmol, 60 mg | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C=O)C=C1 | C21H15F2NO3
reactant | methyl isonipecotate | 0.35 mmol, 50 mg | N1CCC(C(=O)OC)CC1 | C7H13NO2
reactant | Acetic acid | 20 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride THF | 0.35 mmol, 1M, 0.35 mL | C(#N)[BH3-].[Na+].C1CCOC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | methyl 1-{4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzyl}piperidine-4-carboxylate | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(CN2CCC(CC2)C(=O)OC)C=C1 | C28H28F2N2O4
